US04800201
2,5-dimethyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one
2,2,2-Trichloroethylchloroformate (1.68 ml) was added dropwise to a solution of 2,5-dimethyl-2H-1,4-thiazin-3(4H)-one (1.43 g) and pyridine (1.6 ml) in acetonitrile (50 ml) under ice-cooling, and the solution was stirred for 30 minutes at 0° C. The mixture was further stirred at ambient temperature for 2 hours. The solvent was removed under reduced pressure. The residue was extracted with chloroform, was washed with 2N hydrochloric acid and successively with water and was dried over magnesium sulfate. The solvent was removed and the residue was chromatographed on silica gel (Wakogel C-200) column, using ethyl acetate-n-hexane (=1:1) as an eluant. The eluate was washed with ether to give the titled compound (1.68 g, yield 42%) as pale yellow crystals.

reactant | 2,2,2-Trichloroethylchloroformate | 1.68 ml | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | 2,5-dimethyl-2H-1,4-thiazin-3(4H)-one | 1.43 g | CC1SC=C(NC1=O)C | C6H9NOS
reactant | pyridine | 1.6 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2,5-dimethyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one | 1.68 g, yield 42% | CC1SC(=C(NC1=O)C)C1C=CN(C=C1)C(=O)OCC(Cl)(Cl)Cl | C14H15Cl3N2O3S
